US06291514B1
Isopropyl 4-(aminothioxomethyl)-5-ethylthiophene-2-carboxylate: A stirred solution of 1.7 g (7.6 mmol) of isopropyl 4-cyano-5-ethylthiophene-2-carboxylate was treated as in Example 139, step (c) to give isopropyl 5-ethyl-4-(aminothioxomethyl)-5-ethylthiophene-2-carboxylate (1.45 g, 74%) as a yellow solid. 1H-NMR (DMSO-d6; 300 MHz) δ 9.93 (br s, 1H), 9.39 (br s, 1H), 8.04 (s, 1H), 5.08 (septet, 1H, J=6.2 Hz), 3.08 (q, 2H, J=7.5 Hz), 1.29 (d, 6H, J=6.2 Hz), 1.24 (t, 3H, J=7.5 Hz).

reactant | Isopropyl 4-(aminothioxomethyl)-5-ethylthiophene-2-carboxylate | NC(C=1C=C(SC1CC)C(=O)OC(C)C)=S | C11H15NO2S2
reactant | isopropyl 4-cyano-5-ethylthiophene-2-carboxylate | 7.6 mmol, 1.7 g | C(#N)C=1C=C(SC1CC)C(=O)OC(C)C | C11H13NO2S
product | isopropyl 5-ethyl-4-(aminothioxomethyl)-5-ethylthiophene-2-carboxylate | 1.45 g, 74% | C(C)C1(C(=CC(S1)C(=O)OC(C)C)C(=S)N)CC | C13H21NO2S2
